US07432283B2
To a solution of 3-bromo-2-methyl-7-(2,4,6-trimethyl-phenyl)-4,5,6,7-tetrahydro-2H-pyrazolo [3,4-b]pyridine (0.053 g, 0.159 mmol) in 1 mL of tetrahydrofuran at −78° C. was added n-butyl lithium (0.12 mL, 0.19 mmol), and the yellow solution was stirred at −78° C. for 10 min. A 1.0 M zinc chloride in ether solution (0.45 mL, 0.45 mmol) was added, the resulting cloudy pale orange solution was stirred at RT for 10 min., then butyryl chloride (0.020 mL, 0.19 mmol) and tetrakis(triphenylphosphine) palladium(0) (0.003 g, 0.003 mmol) were added. The golden yellow solution was stirred for 3 h, then quenched with 1 mL of a saturated aqueous ammonium chloride solution. The mixture was partitioned between 5 mL of water and 5 mL of dichloromethane. The aqueous layer was extracted with 5 mL of dichloromethane, and the combined organic layers were dried over MgSO4, filtered, and concentrated to a yellow oil. Column chromatography (0→20% EtOAc/hexanes) afforded 0.021 g (41%) of 1-[2-methyl-7-(2,4,6-trimethyl-phenyl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridin-3-yl]-butan-1-one as a slightly impure pale yellow oil that was used without further purification.

reactant | 3-bromo-2-methyl-7-(2,4,6-trimethyl-phenyl)-4,5,6,7-tetrahydro-2H-pyrazolo [3,4-b]pyridine | 0.159 mmol, 0.053 g | BrC=1N(N=C2N(CCCC21)C2=C(C=C(C=C2C)C)C)C | C16H20BrN3
reactant | n-butyl lithium | 0.19 mmol, 0.12 mL | C(CCC)[Li]
reactant | ether | 0.45 mmol, 0.45 mL | CCOCC | C4H10O
reactant | butyryl chloride | 0.19 mmol, 0.020 mL | C(CCC)(=O)Cl | C4H7ClO
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | zinc chloride | 1.0 M | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.003 mmol, 0.003 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-[2-methyl-7-(2,4,6-trimethyl-phenyl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridin-3-yl]-butan-1-one | 0.021 g, 41% | CN1N=C2N(CCCC2=C1C(CCC)=O)C1=C(C=C(C=C1C)C)C | C20H27N3O
